US08975252B2
Tetrakis(triphenylphosphine)palladium(0) (20 mg) was added to a solution of tert-butyl {[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropylcarbamate (150 mg), potassium cyclopropyltrifluoroborate (73 mg) and potassium phosphate (254 mg) in toluene (3 ml)-water (1 ml) under argon atmosphere and the mixture was stirred at 100° C. for 24 hours. Potassium cyclopropyltrifluoroborate (24 mg), potassium phosphate (73 mg) and tetrakis(triphenylphosphine)palladium(0) (20 mg) were added to the reaction mixture and it was stirred further at 100° C. for 24 hours. Water was added to the reaction mixture under ice-cooling, the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane to n-hexane/ethyl acetate=2/1) to give tert-butyl cyclopropyl{[3-cyclopropyl-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}carbamate (57 mg) as a colorless oil.

reactant | tert-butyl {[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropylcarbamate | 150 mg | BrC1=NN(C2=CC(=CC=C12)CN(C(OC(C)(C)C)=O)C1CC1)CCCOC | C20H28BrN3O3
reactant | potassium cyclopropyltrifluoroborate | 73 mg | C1(CC1)[B-](F)(F)F.[K+]
reactant | potassium phosphate | 254 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 1 ml | O | H2O
reactant | Potassium cyclopropyltrifluoroborate | 24 mg | C1(CC1)[B-](F)(F)F.[K+]
reactant | potassium phosphate | 73 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl cyclopropyl{[3-cyclopropyl-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}carbamate | 57 mg | C1(CC1)N(C(OC(C)(C)C)=O)CC1=CC=C2C(=NN(C2=C1)CCCOC)C1CC1 | C23H33N3O3
